US07754756B2
Butyl 1-{3-[(R)-2-[3-(phenylsulphonylamino)-phenyl]-2-hydroxy-ethylamino]-3-methyl-butyl}-1H-indole-5-carboxylate hydrotrifluoroacetate
Prepared analogously to Example 7 by reacting methyl 1-{3-[(R)-2-[3-(phenylsulphonylamino)-phenyl]-2-hydroxy-ethylamino]-3-methyl-butyl}-1H-indole-5-carboxylate with sodium methoxide in n-butanol.

reactant | methyl 1-{3-[(R)-2-[3-(phenylsulphonylamino)-phenyl]-2-hydroxy-ethylamino]-3-methyl-butyl}-1H-indole-5-carboxylate | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=CC1)[C@H](CNC(CCN1C=CC2=CC(=CC=C12)C(=O)OC)(C)C)O | C29H33N3O5S
reactant | sodium methoxide | C[O-].[Na+]
reactant | n-butanol | C(CCC)O | C4H10O
product | Butyl 1-{3-[(R)-2-[3-(phenylsulphonylamino)-phenyl]-2-hydroxy-ethylamino]-3-methyl-butyl}-1H-indole-5-carboxylate | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=CC1)[C@H](CNC(CCN1C=CC2=CC(=CC=C12)C(=O)OCCCC)(C)C)O | C32H39N3O5S
